US04683241
2,2'-dipivaloyloxybenzophenone
2 g (0.01 mole) of 2,2'-dihydroxybenzophenone was dissolved in 30 mls of dry pyridine and 3 g (0.03 mole) of pivaloyl chloride added and contents warmed for 3 hrs. at 50° C. Solvent was removed by rotary evaporator and H2O added and crystals filtered. Recrystallized from ethanol, 3.2 g (83%) yield, M.P.~106°-108° C.

reactant | 2,2'-dihydroxybenzophenone | 0.01 mole, 2 g | OC1=C(C(=O)C2=C(C=CC=C2)O)C=CC=C1 | C13H10O3
reactant | pivaloyl chloride | 0.03 mole, 3 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 30 mls | N1=CC=CC=C1 | C5H5N
product | 2,2'-dipivaloyloxybenzophenone | C(C(C)(C)C)(=O)OC1=C(C(=O)C2=C(C=CC=C2)OC(C(C)(C)C)=O)C=CC=C1 | C23H26O5
